### PR TITLE
[Merged by Bors] - feat: a σ-additive content on a set ring is σ-subadditive

### PR DESCRIPTION
**Pull request by RemyDegenne**
The result was already mentioned in the file docstring, but was not there.

Part of the formalization of Kolmogorov's extension theorem.
Co-authored-by: Peter Pfaffelhuber

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 1]
```diff
@@ -398,6 +398,68 @@ theorem addContent_iUnion_eq_sum_of_tendsto_zero (hC : IsSetRing C) (m : AddCont
...
+      exact disjoint_disjointed f hij
+    · rw [← h1]
+      exact hf n
+  simp_rw [h]
+  change Tendsto (fun n ↦ (fun k ↦ ∑ i ∈ range k, m (g i)) (n + 1)) atTop (𝓝 (∑' i, m (g i)))
+  rw [tendsto_add_atTop_iff_nat (f := (fun k ↦ ∑ i ∈ range k, m (g i))) 1]
+  exact ENNReal.tendsto_nat_tsum _
+
+/-- If an additive content is σ-additive on a set ring, then it is σ-subadditive. -/
+theorem addContent_iUnion_le_of_addContent_iUnion_eq_tsum (hC : IsSetRing C)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:438]: Shouldn't you use `isSigmaSubadditive` in the lemma name?

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 2]
```diff
@@ -398,6 +398,68 @@ theorem addContent_iUnion_eq_sum_of_tendsto_zero (hC : IsSetRing C) (m : AddCont
...
+      rintro ⟨i, _, rfl⟩
+      exact hC.disjointed_mem hf i
+    · intro s hs t ht hst
+      rw [mem_coe, Finset.mem_image] at hs ht
+      obtain ⟨i, _, rfl⟩ := hs
+      obtain ⟨j, _, rfl⟩ := ht
+      have hij : i ≠ j := fun h_eq ↦ hst (h_eq ▸ rfl)
+      exact disjoint_disjointed f hij
+    · rw [← h1]
+      exact hf n
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:431]: This seems unnecessarily complicated. Wouldn't it be easier to use `addContent_accumulate`? It would ask to add lemmas like `partialSups = Accumulate` et al but I think it will be nicer in the end.

File: Mathlib/MeasureTheory/Measure/AddContent.lean [hunk 3]
```diff
@@ -398,6 +398,68 @@ theorem addContent_iUnion_eq_sum_of_tendsto_zero (hC : IsSetRing C) (m : AddCont
...
+  classical
+  rw [partialSups_eq_sUnion_image]
+  refine (addContent_le_sum_of_subset_sUnion hC.isSetSemiring
+    (J := (range (n + 1)).image f) (fun s ↦ ?_) ?_ subset_rfl).trans ?_
+  · rw [mem_coe, Finset.mem_image]
+    rintro ⟨i, _, rfl⟩
+    exact hf i
+  · rw [← partialSups_eq_sUnion_image]
+    exact hC.partialSups_mem hf n
+  · exact sum_image_le_of_nonneg fun _ _ ↦ zero_le _
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/AddContent.lean:461]: I feel like there are some lemmas missing, because you have an indexed family of sets but you use the `sUnion` of the image instead of directly using `iUnion`, and it seems to complicate the proof.

**Review by EtienneC30 — COMMENTED** [review]
Thanks! I left some suggestions to simplify the proofs.

**Comment by sgouezel** [comment]
bors d+
Thanks!
